US05763437
To a solution of (3RS)-3-amino-2,3-dihydro-5-(2-fluorophenyl)-1-(pyridin-3-yl)methyl-1H-1,4-benzodiazepin-2-one (0.48 g) in dry methylene chloride (30 ml) was added dropwise a solution of 3-methylphenyl isocyanate (0.195 g) in dry methylene chloride (5 ml) under nitrogen atmosphere at cooling in an ice-bath. The mixture was stirred under the same temperature for 1 hour and at ambient temperature overnight. The resultant precipitates were collected by filtration and washed with isopropyl ether to afford N-[(3RS)-2,3-dihydro-5-(2-fluorophenyl)-2-oxo-1-(pyridin-3-yl)methyl-1H-1,4-benzodiazepin-3-yl]-N'-(3-methylphenyl)urea.

reactant | (3RS)-3-amino-2,3-dihydro-5-(2-fluorophenyl)-1-(pyridin-3-yl)methyl-1H-1,4-benzodiazepin-2-one | 0.48 g | NC1C(N(C2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2)CC=2C=NC=CC2)=O | C21H17FN4O
reactant | 3-methylphenyl isocyanate | 0.195 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | N-[(3RS)-2,3-dihydro-5-(2-fluorophenyl)-2-oxo-1-(pyridin-3-yl)methyl-1H-1,4-benzodiazepin-3-yl]-N'-(3-methylphenyl)urea | FC1=C(C=CC=C1)C1=NC(C(N(C2=C1C=CC=C2)CC=2C=NC=CC2)=O)NC(=O)NC2=CC(=CC=C2)C | C29H24FN5O2
